US07452911B2
5-(4-chloro-phenyl)-2-[4-(4-pyrrolidin-1-ylmethyl-phenyl)-but-1-ynyl]-nicotinonitrile
Under an argon atmosphere 1.9 mg (0.1 mmol) CuI and 7 mg (0.1 mmol) Pd(PPh3)2Cl2 are added to a solution of 50 mg (0.2 mmol) 2-chloro-5-(4-chloro-phenyl)-nicotinonitrile and 43 mg (0.2 mmol) 1-(4-but-3-ynyl-benzyl)-pyrrolidine in 2 mL DMF and 5 mL (20 mmol) triethylamine and the reaction mixture is stirred for 18 h at 50° C. The mixture is evaporated down i.vac., the residue is taken up in water, extracted exhaustively with EtOAc and the organic phase is dried over Na2SO4. After the desiccant and solvent have been eliminated the residue is is purified by HPLC.

reactant | 2-chloro-5-(4-chloro-phenyl)-nicotinonitrile | 0.2 mmol, 50 mg | ClC1=C(C#N)C=C(C=N1)C1=CC=C(C=C1)Cl | C12H6Cl2N2
reactant | 1-(4-but-3-ynyl-benzyl)-pyrrolidine | 0.2 mmol, 43 mg | C(CC#C)C1=CC=C(CN2CCCC2)C=C1 | C15H19N
reactant | triethylamine | 20 mmol, 5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.1 mmol, 1.9 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(4-chloro-phenyl)-2-[4-(4-pyrrolidin-1-ylmethyl-phenyl)-but-1-ynyl]-nicotinonitrile | ClC1=CC=C(C=C1)C=1C=NC(=C(C#N)C1)C#CCCC1=CC=C(C=C1)CN1CCCC1 | C27H24ClN3
